US06730626B2
Next, 5.0 g (17.5 millimole) of 2-bromo-4,6-di-tert-butylphenol described above was dissolved in 45 ml of dehydrated diethyl ether under nitrogen flow, and the solution was cooled down to −30° C. Then, 23.3 ml (37.3 millimole) of a hexane solution having an n-butyllithium concentration of 1.6 mole/liter was added thereto, and then the solution was stirred at a room temperature for 5 hours. The reaction mixture was cooled down to −30° C., and 3.26 ml (17.3 millimole) of diphenylchlorophosphine was added thereto and stirred at a room temperature for 8 hours. In this reaction solution, 2.6 ml (20.5 millimole) of trimethylsilyl chloride was added, and the solution was further stirred for 8 hours. Then, the solvent was distilled off under reduced pressure, and the residue was extracted with hexane. Subsequently, after the solvent was distilled off under reduced pressure, the residue was dissolved in hexane, and the solution was then cooled down to separate a precipitated solid matter, whereby 1.3 g (yield: 16%) of 4,6-di-tert-butyl-2-diphenylphosphinophenyl trimethylsilyl ether was obtained.

reactant | 2-bromo-4,6-di-tert-butylphenol | 17.5 millimole, 5.0 g | BrC1=C(C(=CC(=C1)C(C)(C)C)C(C)(C)C)O | C14H21BrO
reactant | hexane | 37.3 millimole, 23.3 ml | CCCCCC | C6H14
reactant | n-butyllithium | C(CCC)[Li]
reactant | diphenylchlorophosphine | 17.3 millimole, 3.26 ml | C1(=CC=CC=C1)P(Cl)C1=CC=CC=C1 | C12H10ClP
reactant | trimethylsilyl chloride | 20.5 millimole, 2.6 ml | C[Si](C)(C)Cl | C3H9ClSi
solvent | diethyl ether | 45 ml | C(C)OCC | C4H10O
product | 4,6-di-tert-butyl-2-diphenylphosphinophenyl trimethylsilyl ether | 1.3 g, yield: 16% | C[Si](C)(C)OC1=C(C=C(C=C1C(C)(C)C)C(C)(C)C)P(C1=CC=CC=C1)C1=CC=CC=C1 | C29H39OPSi
